Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ Pain
 
Major Surgical or Invasive Procedure:
Right ___ Irrigation, I&D ___, 
Extension of incision and washout on ___

 
History of Present Illness:
Mr. ___ is a ___ RHD male from ___ who is ___ ___
working for the ___. He presents with history of 4 days of
progressive right ___ swelling/cellulitis after his hit his 
___
with a hammer while putting up tents at work. Pt states that he
initially had minor cellulitis at the site and was evaluated at
urgent care ___ where he was started on Keflex and then
Bactrim without relief. Pt states that he has had some 
subjective
fevers. He denies any other symptoms. He was diagnosed with a
collar button abscess that was I&Ded by ___ service ___ the ED
and he was admitted to medicine for IV antibiotics and
observation. He was started on CTX/Vancomycin and admitted to 
the
ward. On arrival to the floor was feeling well save for right
___ pain. He denies fevers, chills, nausea, vomiting, chest
pain, history of skin abscesses or infection. 
 
Past Medical History:
Past Medical History: 
Nicotine dependence
 
Social History:
___
Family History:
No family history of infectious diseases
 
Physical Exam:
Discharge Exam: 
Gen: Lying ___ bed ___ no apparent distress
Vitals: Afebrile and vital signs stable (bedside chart reviewed 
-
please see bedside record). Specific comments to same:
FSBG:  
HEENT: Anicteric, eyes conjugate, MMM, no JVD
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Soft, ___, bowel sounds
present, no HSM  
Skin: No rashes or ulcerations evident
Neurological: Alert, interactive, speech fluent, face symmetric,
moving all extremities
Psychiatric: pleasant, appropriate affect

Per ___ Team Assessment 
MSK/RUE: volar and dorsal ___ incision appears clean w/o 
significant
edema; minimal erythema over dorsal incision, improved from
yesterday surrounding skin over volar incision slightly
macerated; no expressible purulence today;  
 
Pertinent Results:
___ 07:45AM BLOOD ___ 
___ Plt ___
___ 08:10AM BLOOD ___ 
___

___ 4:46 pm ABSCESS      ABSCESS/SWAB/RIGHT PALM CULTURE. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   WOUND CULTURE (Preliminary): 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ANAEROBIC CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary): 
 
Brief Hospital Course:
___ yo RHD M with R collar button abscess (volar, ring and middle
fingers) now ___ s/p I&D and initiation of 
Vancomycin/Ceftriaxone, discharged home with PO Bactrim to 
complete 7 day course, needs OT and ongoing wound care on 
discharge. Patient is not home bound therefore cannot 

#Collar Button Abscess of ___
#Cellulitis of ___ 
Patient was admitted to the hospital and underwent bedside I&D 
on ___. He underwent extension of his incision on ___ with ___ 
team and his ___ had no purulent drainage and was stable 
without leukocytosis on discharge. He was given 
Vancomycin/Ceftriaxone while ___ the hospital and transitioned to 
PO Bactrim on discharge with plan for seven day course. He also 
will be arranged to have home ___ for wound care and home OT 
given concern for ___ dysfunction. Wound culture revealed staph 
aureus. 
-will discharge for 7 day course of PO  Bactrim on ___
-BID soaks with warm soapy water x 15 minutes; after soaks, pls
have pt repack wound and wrap with kerlix and guaze; pt may
perform himself if comfortable but ___ can also come and assist
-removable splint ___ place, with strict elevation of RUE
-PO abx x 7 days, appropriate abx per primary team
-home OT services
-pls have pt f/u ___ ___ ___ Surgery clinic this
week on ___ for wound eval, possible closure. Pt will
have to call for appt at ___.

 
Medications on Admission:
None
 
Discharge Medications:
 

1.  Acetaminophen 650 mg PO Q6H  
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days 
RX ___ [Bactrim DS] 800 ___ mg 1 
tablet(s) by mouth twice a day Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Collar Button Abscess of right ___ Cellulitis

 
Discharge Condition:
Good
Alert and Oriented x 3 (Speaks limited ___ speaks mostly 
___
Ambulatory without assistance

 
Discharge Instructions:
 
Dear Mr. ___, you were admitted to the hospital with you a 
skin infection (cellulitis) and abscess of your right ___. You 
required IV antibiotics and incision, drainage, and washout of 
your ___ with ___ surgeons. You were improving and without 
purulent drainage at the time of discharge. When you leave the 
hospital it is important that you continue taking your oral 
antibiotics for 7 days and ___ with the ___ clinic (you 
will have to call to make an appointment). You will also need 
outpatient OT (address provided) and outpatient wound care 
(address provided). It is very important you keep doing 
occupational therapy and wound care to maintain function of your 
___. 
 
Followup Instructions:
___